US05627215
(E)-1,14-Di-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.18 g (0.642 mmol) of (E)-1,4-bis(3-ethyl-hexahydropyrimidin-1-yl)but-2-ene, 2.5 ml of methanol and 2.56 ml (5.12 mmol) of 2N hydrochloric acid is heated for 72 h under reflux. The reaction mixture is then cooled to room temperature, and 10 ml of methanol are added, whereupon the title compound precipitates in crystalline form. The crystallisate, which is washed with methanol and diethyl ether and dried under a high vacuum at 120° C., melts at >260° C. 1H-NMR (D2O): δ1.27(t,6H); 2.04-2.15(m,4H); 3.07-3.18(m,12H); 3.77(d,4H); 6.04-6.06(m,2H).

reactant | (E)-1,4-bis(3-ethyl-hexahydropyrimidin-1-yl)but-2-ene | 0.642 mmol, 0.18 g | C(C)N1CN(CCC1)C\C=C\CN1CN(CCC1)CC | C16H32N4
reactant | hydrochloric acid | 5.12 mmol, 2N, 2.56 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 2.5 ml | CO | CH4O
product | (E)-1,14-Di-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C)NCCCNC\C=C\CNCCCNCC | InChI=1S/C14H32N4.4ClH/c1-3-15-11-7-13-17-9-5-6-10-18-14-8-12-16-4-2;;;;/h5-6,15-18H,3-4,7-14H2,1-2H3;4*1H/b6-5+;;;;
